US08735417B2
n-bromosuccinimide (80 mg, 0.449 mmol) was combined with a solution of 4-(4-chloro-1,3-thiazol-2-yl)-1,4-diazepan-2-one (100 mg, 0.432 mmol) in CHCl3 (6 ml) and stirred at 23° C. for 8 minutes. The solution became dark was immediately diluted with ethyl acetate, and washed successively with aq. sodium thiosulfate (sat.), aq. NaHCO3 (sat.) and brine. The organic fraction was dried (Na2SO4), filtered and concentrated to afford 4-(5-bromo-4-chloro-1,3-thiazol-2-yl)-1,4-diazepan-2-one (75 mg, 0.241 mmol, 55.9% yield) as a yellow oil of sufficient purity for subsequent transformations.

reactant | n-bromosuccinimide | 0.449 mmol, 80 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-(4-chloro-1,3-thiazol-2-yl)-1,4-diazepan-2-one | 0.432 mmol, 100 mg | ClC=1N=C(SC1)N1CC(NCCC1)=O | C8H10ClN3OS
solvent | CHCl3 | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-bromo-4-chloro-1,3-thiazol-2-yl)-1,4-diazepan-2-one | 0.241 mmol, 75 mg, 55.9% yield | BrC1=C(N=C(S1)N1CC(NCCC1)=O)Cl | C8H9BrClN3OS
